US05348972
2-(2-(4,4-Dimethylchroman-6-yl)ethynyl)pyridine-5-carboxaldehyde
A solution of 1.396 g (11 mmol) of freshly distilled oxalyl chloride in 25 ml of methylene chloride is placed in a 4-necked flask equipped with a stirrer, a thermometer and two pressure- equalizing addition funnels fitted with drying tubes. The solution is cooled to -60° C. and then treated dropwise with a solution of 1.875 g (24 mmol) of dimethyl sulfoxide (distilled from calcium hydride) in 5 ml of methylene chloride over a five minute period. The reaction mixture is then stirred at -60° C. for an additional 10 minutes. A solution of 2.82 g (10 mmol) of 2-[2-(4,4-dimethylchroman-6-yl)ethynyl]-5-hydroxymethylpyridine in 10 ml of methylene chloride is then added to the reaction mixture over a period of 5 minutes. The mixture is stirred for a further 15 minutes and is then treated with 5.06 g (50 mmol) of triethylamine. The cooling bath is then removed and the mixture is allowed to warm to room temperature. Thirty ml of water is then added to the mixture and stirring is continued for a further 10 minutes. The organic layer is then separated and the aqueous layer is extracted with 20 ml of methylene chloride. The organic layers are then combined and washed successively with dilute HCl, water and dilute Na2CO3 solution and then dried (MgSO4). The solution is then filtered and concentrated in vacuo and the residue is purified by chromatography followed by recrystallization to give the title compound.

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 24 mmol, 1.875 g | CS(=O)C | C2H6OS
reactant | 2-[2-(4,4-dimethylchroman-6-yl)ethynyl]-5-hydroxymethylpyridine | 10 mmol, 2.82 g | CC1(CCOC2=CC=C(C=C12)C#CC1=NC=C(C=C1)CO)C | C19H19NO2
reactant | triethylamine | 50 mmol, 5.06 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-(4,4-Dimethylchroman-6-yl)ethynyl)pyridine-5-carboxaldehyde | CC1(CCOC2=CC=C(C=C12)C#CC1=NC=C(C=C1)C=O)C | C19H17NO2
